US08563599B2
2′,7-Dibenzyloxy-4′hydroxy-isoflav-3-ene
To a solution of 2′,7-dibenzyloxy-4′-methoxymethyloxy-isoflav-3-ene (0.480 g, 1 mmol) in acetonitrile:water (20 mL:1 mL) was added triphenyl phosphine hydrobromide (0.788 g, 2 mmol). The reaction was heated to 50° C. for ca. 2 hrs. After disappearance of the starting material (TLC), the solvent was evaporated at 20° C. The residue was extracted with EtOAc:water (3×10 mL:10 mL). The organic layers were combined, dried and evaporated. The residue was chromatographed over silica using hexanes:EtOAc (5:1). The organic fractions were evaporated to provide 0.374 g (78%) of product as an oil. Because of the instability of this intermediate, it was immediately used for the next step: TLC Rf0.43, in hexanes:EtOAc (5:1); 1H NMR (600 MHz, DMSO-d6) δ 9.66 (s, 1H, OH), 7.46-7.32 (m, 10H, 2×CH5), 7.14, 7.13 (d, 1H, J=8.4 Hz, Ar—H5), 7.01-6.99 (d, 1H, J=7.8 Hz, Ar—H6′) 6.57-6.55 (m, 2H, H4/Ar—H5′), 6.59-6.52 (d, 1H, J=2.4 Hz, Ar—H8), 6.48-6.47 (d, 1H, J=2.4 Hz, Ar—H3′), 6.41-6.39 (dd, 1H, 2J=8.4 Hz, 3J=2.4 Hz, Ar—H5′), 5.07 (s, 4H, PhCH2), 4.85 (s, 2H, H2).

reactant | 2′,7-dibenzyloxy-4′-methoxymethyloxy-isoflav-3-ene | 1 mmol, 0.480 g | C(C1=CC=CC=C1)OC1=C(C=2COC3=CC(=CC=C3C2)OCC2=CC=CC=C2)C=CC(=C1)OCOC | C31H28O5
reactant | water | 20 mL | O | H2O
reactant | triphenyl phosphine hydrobromide | 2 mmol, 0.788 g | Br.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | acetonitrile | C(C)#N | C2H3N
product | 2′,7-Dibenzyloxy-4′hydroxy-isoflav-3-ene | 0.374 g, 78% | C(C1=CC=CC=C1)OC1=C(C=2COC3=CC(=CC=C3C2)OCC2=CC=CC=C2)C=CC(=C1)O | C29H24O4
